US06051712
A solution of 2.0 g (6.72 mmol) of (3RS,4RS)-l-benzyl-4-(4-hydroxymethyl-phenyl)-piperidin-3-ol in 100 ml of ethanol was hydrogenated at room temperature and 3 bar for 4 hours in the presence of 1.0 g of palladium oxide/charcoal (20%). For the working-up, the catalyst was filtered off under suction over Dicalit and the residue was washed twice with 50 ml of ethanol each time. The ethanol solution was evaporated under reduced pressure and the residue was chromatographed on silica gel using a 65:10:1 mixture of methylene chloride, methanol and ammonia as the eluent. There were obtained 1.1 g (79% of theory) of (3RS,4RS)-4-(4-hydroxymethyl-phenyl)-piperidin-3-ol as a colourless solid; MS: 207 (M)+.

reactant | (3RS,4RS)-l-benzyl-4-(4-hydroxymethyl-phenyl)-piperidin-3-ol | 6.72 mmol, 2.0 g | C(C1=CC=CC=C1)N1CC(C(CC1)C1=CC=C(C=C1)CO)O | C19H23NO2
solvent | ethanol | 100 ml | C(C)O | C2H6O
catalyst | palladium oxide charcoal | 1.0 g | [Pd]=O.C
product | (3RS,4RS)-4-(4-hydroxymethyl-phenyl)-piperidin-3-ol | 1.1 g, 79% | OCC1=CC=C(C=C1)C1C(CNCC1)O | C12H17NO2
